US09062028B2
Step A. tert-Butyl 3-((3-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)propanoate
To a degassed mixture of 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-hydroxybutan-1-one (0.208 g, 0.698 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (0.532 g, 2.094 mmol), and potassium acetate (0.411 g, 4.19 mmol) in DMF (10 mL) was added PdCl2(dppf)-CH2Cl2 (0.057 g, 0.070 mmol). The vial was purged with argon, sealed, and stirred at 90° C. for 2 d. tert-Butyl 3-((3-bromobenzyloxy)carbonylamino)propanoate (0.5 g, 1.396 mmol), PdCl2(dppf)-CH2Cl2 (0.057 g, 0.070 mmol), and 2 M Na2CO3 (2 mL, 1.396 mmol) were added. The reaction mixture was purged with argon and stirred at 95° C. overnight. At the conclusion of this period, the reaction mixture was quenched with water and extracted with ethyl acetate. The organic extract was dried, concentrated, and purified by flash chromatography (0-100% ethyl acetate:hexanes then 10% CH3OH:ethyl acetate) to afford the title compound (0.24 g, 69% yield) as a dark brown oil. LCMS, [M+H]+=497.4.

reactant | 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-hydroxybutan-1-one | 0.698 mmol, 0.208 g | BrC1=C2CCCN(C2=CC=C1)C(CCCO)=O | C13H16BrNO2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.094 mmol, 0.532 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 4.19 mmol, 0.411 g | C(C)(=O)[O-].[K+]
reactant | tert-Butyl 3-((3-bromobenzyloxy)carbonylamino)propanoate | 1.396 mmol, 0.5 g | BrC=1C=C(COC(=O)NCCC(=O)OC(C)(C)C)C=CC1 | C15H20BrNO4
reactant | Na2CO3 | 1.396 mmol, 2 M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) CH2Cl2 | 0.070 mmol, 0.057 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.070 mmol, 0.057 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH3OH | CO | CH4O
product | tert-Butyl 3-((3-(1-(4-hydroxybutanoyl)-1,2,3,4-tetrahydroquinolin-5-yl)benzyloxy)carbonylamino)propanoate | 0.24 g, 69% yield | OCCCC(=O)N1CCCC2=C(C=CC=C12)C=1C=C(COC(=O)NCCC(=O)OC(C)(C)C)C=CC1 | C28H36N2O6
